US05407897
Preparation of 4,6-Dicarboxy-3,4-dihydro-2H-1-benzopyran-4-acetic acid
Potassium permanganate (7.52 g, 48 mmol) is added to a mixture of 4-carboxy-3,4-dihydro-6-methyl-2H-benzopyran-4-acetic acid (3.50 g, 14 mmol) and sodium hydroxide (0.84 g, 21 mmol) in water at 50° C. The reaction mixture is stirred at 50° to 60° C. overnight and filtered through diatomaceous earth. The filtrate is acidified to pH 1 with hydrochloric acid, washed with an ether/methylene chloride solution and filtered to obtain the title product as a white solid (0.62 g, mp 198°-200° C.).

reactant | Potassium permanganate | 48 mmol, 7.52 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 4-carboxy-3,4-dihydro-6-methyl-2H-benzopyran-4-acetic acid | 14 mmol, 3.50 g | C(=O)(O)C1(CCOC2=C1C=C(C=C2)C)CC(=O)O | C13H14O5
reactant | sodium hydroxide | 21 mmol, 0.84 g | [OH-].[Na+]
reactant | water | O | H2O
product | 4,6-Dicarboxy-3,4-dihydro-2H-1-benzopyran-4-acetic acid | 0.62 g | C(=O)(O)C1(CCOC2=C1C=C(C=C2)C(=O)O)CC(=O)O | C13H12O7
